US07943622B2
Step 2. Synthesis of 2-chloro-6-isopropoxybenzo[d]thiazole
2-Chlorobenzo[d]thiazol-6-ol (0.800 g, 4.31 mmol), isopropanol (0.36 mL, 4.74 mmol) and triphenylphosphine (1.24 g, 4.74 mmol) were mixed in THF (1.4 mL) and sonicated. DIAD (0.933 mL, 4.74 mmol) was added dropwise over ˜2 min. After 1 h, the reaction mixture was concentrated under reduced pressure. The material was purified by column chromatography (0 to 10% EtOAc in Hexanes gradient), yielding 0.894 g (91%) of the title compound as a light brown oil. LC-MS: RT=10.21 min., [M+H]+=228.0. Rf=0.50 in 10% EtOAc/Hexanes.

reactant | 2-Chlorobenzo[d]thiazol-6-ol | 4.31 mmol, 0.800 g | ClC=1SC2=C(N1)C=CC(=C2)O | C7H4ClNOS
reactant | isopropanol | 4.74 mmol, 0.36 mL | C(C)(C)O | C3H8O
reactant | triphenylphosphine | 4.74 mmol, 1.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4.74 mmol, 0.933 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | 2-chloro-6-isopropoxybenzo[d]thiazole | 0.894 g, 91% | ClC=1SC2=C(N1)C=CC(=C2)OC(C)C | C10H10ClNOS
